US09303033B2
6-Bromo-N-cyclopropylimidazo[1,2-a]pyrazin-8-amine (0.5 g, 1.98 mmol) was dissolved in dichloromethane (8 mL). Di-tert-butyl dicarbonate (733 mg, 3.35 mmol), DMAP (5 mg, 0.02 mmol) and pyridine (0.4 mL) were added sequentially. After 12 h, the solution was diluted with EtOAc (50 mL) and then washed sequentially with 1N HCl (50 mL), 1N NaOH (50 mL), and brine (50 mL). The organic layer was dried over MgSO4, filtered and concentrated in vacuo. The residue was triturated with hexanes (5 mL) to yield tert-butyl 6-bromoimidazo[1,2-a]pyrazin-8-yl(cyclopropyl)carbamate (337 mg, 48%) as an off white solid. 1H NMR (CDCl3, 400 MHz) δ: 8.18 (s, 1H), 7.78 (d, 1H, J=0.8 Hz), 7.67 (d, 1H, J=0.8 Hz), 3.25 (dddd, 1H, J=6.8, 6.8, 3.6, 3.6 Hz), 1.20 (s, 9H), 0.78-0.86 (m, 2H), 0.71-0.77 (m, 2H).

reactant | 6-Bromo-N-cyclopropylimidazo[1,2-a]pyrazin-8-amine | 1.98 mmol, 0.5 g | BrC=1N=C(C=2N(C1)C=CN2)NC2CC2 | C9H9BrN4
reactant | Di-tert-butyl dicarbonate | 3.35 mmol, 733 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | pyridine | 0.4 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
catalyst | DMAP | 0.02 mmol, 5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | tert-butyl 6-bromoimidazo[1,2-a]pyrazin-8-yl(cyclopropyl)carbamate | 337 mg, 48% | BrC=1N=C(C=2N(C1)C=CN2)N(C(OC(C)(C)C)=O)C2CC2 | C14H17BrN4O2
